US05612356
Ethyl 4-[3-(3-hydroxyiminomethyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoxy)-1-propynyl]benzoate
0.2 g of hydroxylamine hydrochloride and 0.26 g of sodium acetate were added to 15 ml of a solution of 0.51 g of ethyl 4-[3-(3-formyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoxy)-1-propynyl]benzoate in methanol at room temperature. The obtained mixture was stirred at 50° C. for 11 hours and distilled to remove the methanol, followed by the addition thereto of 20 ml of water. The obtained mixture was extracted with ethyl acetate. The organic phase was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography (developer: 30% diethyl ether/n-hexane) to give 0.33 g of the title compound as a pale-yellow oil. 1H-NMR (400 MHz, CDCl3) δ(ppm); 1.28(s, 6H), 1.30(s, 6H), 1.36(t, J=7.2 Hz, 3H), 1.68(brs, 4H), 4.36(q, J=7.2 Hz, 2H), 4.94(s, 2H), 7.04(s, 1H), 7.47(d, J=8.4 Hz, 2H), 7.68(s, 1H), 7.98(d, J=8.4 Hz, 2H), 8.50(s, 1H)

reactant | hydroxylamine hydrochloride | 0.2 g | Cl.NO
reactant | sodium acetate | 0.26 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 4-[3-(3-formyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoxy)-1-propynyl]benzoate | 0.51 g | C(=O)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCC#CC1=CC=C(C(=O)OCC)C=C1 | C27H30O4
solvent | methanol | CO | CH4O
product | Ethyl 4-[3-(3-hydroxyiminomethyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoxy)-1-propynyl]benzoate | 0.33 g | ON=CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCC#CC1=CC=C(C(=O)OCC)C=C1 | C27H31NO4
